US05286905
5.0 Grams (28 mmol) of 1-methyl-2-(3,5-dimethylphenoxy)ethanol was dissolved in 10 ml of tetralin, and 0.5 g of a copper-chromium catalyst (203 SD, supplied by Nikki Chemical Co., Ltd.) was added. The resultant mixture was stirred under a nitrogen current (0.1 liter/minute) at 210° C. for 8 hours. The catalyst was removed by filtration, and the filtrate was distilled under reduced pressure to give 3.41 g of 1-(3,5-dimethylphenoxy)-2-propanone (boiling point: 88° C./0.35 mmHg, yield 69%).

reactant | 1-methyl-2-(3,5-dimethylphenoxy)ethanol | 28 mmol | CC(COC1=CC(=CC(=C1)C)C)O | C11H16O2
solvent | tetralin | 10 ml | C1CCCC2=CC=CC=C12 | C10H12
catalyst | copper-chromium | 0.5 g | [Cr].[Cu]
product | 1-(3,5-dimethylphenoxy)-2-propanone | 3.41 g, yield 69% | CC=1C=C(OCC(C)=O)C=C(C1)C | C11H14O2
